US06159981
d) 3-(2-Chloroethyl)-6-ethyl-3,4,5,6,7,8-hexahydropyrido[3',4':4,5]thieno[2,3-d]pyrimidin-4-one
10.5 g (37.6 mM [sic]) of 3-(2-hydroxyethyl)-6-ethyl-3,4, 5,6,7,8-hexahydropyrido[3',4':4,5]thieno-[2,3-d]pyrimidin-4-one in 100 ml of 1,2-dichloroethane were heated to reflux (slow dissolution) and then 3.5 ml (48 mM [sic]) of thionyl chloride in 20 ml of 1,2-dichloroethane were added dropwise. After refluxing for 1 h, the reaction mixture was allowed to cool, and the solid was filtered off with suction and washed with 1,2-dichloroethane. The crude product was partitioned between methylene chloride and water at pH=9. The organic phase was dried and concentrated to isolate 9.3 g (83%) of product as a dark oil which slowly crystallized and is sufficiently pure for further reactions, melting point 94-96° C.

reactant | 3-(2-hydroxyethyl)-6-ethyl-3,4, 5,6,7,8-hexahydropyrido[3',4':4,5]thieno-[2,3-d]pyrimidin-4-one | 37.6 mM, 10.5 g | OCCN1C=NC2=C(C1=O)C1=C(S2)CCN(C1)CC | C13H17N3O2S
reactant | thionyl chloride | 48 mM, 3.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 3-(2-Chloroethyl)-6-ethyl-3,4,5,6,7,8-hexahydropyrido[3',4':4,5]thieno[2,3-d]pyrimidin-4-one | 9.3 g, 83% | ClCCN1C=NC2=C(C1=O)C1=C(S2)CCN(C1)CC | C13H16ClN3OS
